US05892024
5'-O-Carbethoxy-5'-vinyl-3'-O-t-butyldimethylsilyl N-benzoyl-thymidine
To a solution of 5'-O-carbethoxy-5'-vinyl-3'-O-t-butyldimethylsilyl thymidine (1.7 g) in 20 ml of pyridine was added benzoyl chloride (2.5 eq.) and diisopropyl-ethylamine (95.0 eq.) and the resulting mixture was stirred for 15 hours. The reaction mixture was diluted with ethyl acetate, washed with aqueous sodium bicarbonate followed by brine, and the organic layer was then dried over sodium sulfate. The title compound was purified by flash chromatography using 20% ethyl acetate/hexane.

reactant | 5'-O-carbethoxy-5'-vinyl-3'-O-t-butyldimethylsilyl thymidine | 1.7 g | C(=O)(OCC)OC([C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)O[Si](C)(C)C(C)(C)C)C=C | C21H34N2O7Si
reactant | benzoyl chloride | 2.5 eq. | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | diisopropyl-ethylamine | 95.0 eq. | C(C)(C)N(CC)C(C)C | C8H19N
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5'-O-Carbethoxy-5'-vinyl-3'-O-t-butyldimethylsilyl N-benzoyl-thymidine | C(=O)(OCC)OC([C@@H]1[C@H](C[C@@H](O1)N1C(=O)N(C(=O)C(C)=C1)C(C1=CC=CC=C1)=O)O[Si](C)(C)C(C)(C)C)C=C | C28H38N2O8Si
